US05932601
A mixture of cinnamamide (25.3 g) and 1,3-dichloroacetone (20.9 g) was heated for one hour at 130° C. The reaction mixture was poured into water, which was neutralized with potassium carbonate, followed by extraction with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4) and concentrated. The concentrate was purified by column chromatography on silica gel. From the fraction eluted with ether-hexane (1:5, v/v), was obtained 4-chloromethyl-2-[(E)-styryl] oxazole (16.9 g, 47%), which was recrystallized from ether-hexane to yield colorless needless, m.p.72-73° C.

reactant | cinnamamide | 25.3 g | C(C=CC1=CC=CC=C1)(=O)N | C9H9NO
reactant | 1,3-dichloroacetone | 20.9 g | ClCC(=O)CCl | C3H4Cl2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 4-chloromethyl-2-[(E)-styryl] oxazole | 16.9 g, 47% | ClCC=1N=C(OC1)\C=C\C1=CC=CC=C1 | C12H10ClNO
